US04558150
(c) 1-[N-[(3S)-3-(Benzoylamino)-2-[[(4-methoxyphenyl]methyl]thio]-4-phenylbutyl]-N6 -[(1,1-dimethylethoxy)carbonyl]-L-lysyl]-L-proline, 1,1-dimethylethyl ester (isomer A)
A mixture of (S)-β-(benzoylamino)-α-[[(4-methoxyphenyl)methyl]thio]-benzenebutanal (isomer A) (0.59 g. 1.40 mmole), 1-[N6 -[(1,1-dimethylethoxy)carbonyl]-L-lysyl]-L-proline, 1,1-dimethylethyl ester (1.55 g., 3.88 mmole), and crushed 3 A° molecular sieves (2.0 g.) in tetrahydrofuran (5 ml.) and absolute ethanol (5 ml.) is stirred at room temperature under argon. After stirring for 2 hours, sodium cyanoborohydride (0.27 g., 3 eq.) is added and stirring continued for 18 hours. The reaction mixture is filtered through Celite to remove the sieves. The filtrate is then diluted with ethyl acetate and washed with water, 1N hydrochloric acid (twice), 1N sodium bicarbonate, and brine. After drying over anhydrous MgSO4, the solvent is removed at reduced pressure to give the desired product, a mixture of diastereomers, as a pale yellow oil. TLC (silica gel, benzene:acetone 4:1) isomer A at Rf =0.31, and isomer B at Rf =0.15. Repeated chromatography (flash, silica gel LPS-1; chloroform:methanol, 98:2; hexane-acetone, 65:35; benzene:acetone, 4:1; ethyl acetate:hexane, 6:4; ethyl acetate:hexane, 6:4) gives 0.41 g. of 1-[N-[(3S)-3-(benzoylamino)-2-[[(4-methoxyphenyl)methyl]thio]-4-phenylbutyl]-N6 -[(1,1-dimethylethoxy)carbonyl]-L-lysyl]-L-proline, 1,1-dimethylethyl ester (isomer A) as a colorless oil.

reactant | (S)-β-(benzoylamino)-α-[[(4-methoxyphenyl)methyl]thio]-benzenebutanal | C(C1=CC=CC=C1)(=O)NC([C@@H](C=O)SCC1=CC=C(C=C1)OC)CC1=CC=CC=C1 | C25H25NO3S
reactant | 1-[N6 -[(1,1-dimethylethoxy)carbonyl]-L-lysyl]-L-proline, 1,1-dimethylethyl ester | 3.88 mmole, 1.55 g | CC(C)(OC(=O)NCCCC[C@H](N)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C | C20H37N3O5
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | sodium cyanoborohydride | 0.27 g, 3 eq. | C(#N)[BH3-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-[N-[(3S)-3-(Benzoylamino)-2-[[(4-methoxyphenyl]methyl]thio]-4-phenylbutyl]-N6 -[(1,1-dimethylethoxy)carbonyl]-L-lysyl]-L-proline, 1,1-dimethylethyl ester | C(C1=CC=CC=C1)(=O)N[C@H](C(CN[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)SCC1=CC=C(C=C1)OC)CC1=CC=CC=C1 | C45H62N4O7S
